US05344828
Ethyl 4-(2-Chlorodibenz[b,f][1,4]oxazepin-11-yl)-1-piperazinepropionate
A mixture of 3.14 g of 2-chloro-11-(1-piperazinyl)dibenz[b,f][1,4]oxazepine and 1.20 g of ethyl acrylate in 16 ml of ethanol was refluxed for 2 hrs. The reaction mixture was concentrated and the residue was chromatographed on silica gel using a mixture of n-hexane and ethyl acetate (2:1 and 1:1) as eluents to give 3.68 g of yellow crystals, which were recrystallized from a mixture of isopropyl ether and n-pentane to give yellow prisms, mp 73°-75° C.

reactant | 2-chloro-11-(1-piperazinyl)dibenz[b,f][1,4]oxazepine | 3.14 g | ClC=1C=CC2=C(C(=NC3=C(O2)C=CC=C3)N3CCNCC3)C1 | C17H16ClN3O
reactant | ethyl acrylate | 1.20 g | C(C=C)(=O)OCC | C5H8O2
solvent | ethanol | 16 ml | C(C)O | C2H6O
product | Ethyl 4-(2-Chlorodibenz[b,f][1,4]oxazepin-11-yl)-1-piperazinepropionate | 3.68 g | ClC=1C=CC2=C(C(=NC3=C(O2)C=CC=C3)N3CCN(CC3)CCC(=O)OCC)C1 | C22H24ClN3O3
